US05627247
About 2.4 mmol of fluorene was dissolved in 50 ml of diethylether and mixed with 1.5 ml of a 1.6M hexane solution of butyllithium and stirred for 2 hrs at room temperature. Then 0.77 g of bis(methylcyclopentadienyl) zirconium dichloride was added. The reaction mixture was then stirred for an addition 90 mins. Then the solvent was removed using a vacuum. The residue was extracted with toluene and a suspension filtered over sodium sulfate. The filtrate was freed from solvent and taken up in 50 ml of diethylether. Crystallization at -30° C. yields the product bis(methylcyclopentadienyl) (fluorenyl) zirconium chloride, referred to hereinafter as Catalyst No. 79. The x-ray analysis of the solid Catalyst No. 79 is believed to demonstrate that the fluorenyl is a σ-bound ligand rather than a π-bound ligand.

reactant | fluorene | 2.4 mmol | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | hexane | 1.6M | CCCCCC | C6H14
reactant | butyllithium | C(CCC)[Li]
reactant | bis(methylcyclopentadienyl) zirconium dichloride | 0.77 g | [Cl-].[Cl-].CC1(C=CC=C1)[Zr+2]C1(C=CC=C1)C
solvent | diethylether | 50 ml | C(C)OCC | C4H10O
product | bis(methylcyclopentadienyl) (fluorenyl) zirconium chloride | [Cl-].CC1(C=CC=C1)[Zr+](C1=CC=CC=2C3=CC=CC=C3CC12)C1(C=CC=C1)C | InChI=1S/C13H9.2C6H7.ClH.Zr/c1-3-7-12-10(5-1)9-11-6-2-4-8-13(11)12;2*1-6-4-2-3-5-6;;/h1-5,7-8H,9H2;2*2-5H,1H3;1H;/q;;;;+1/p-1
